US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-piperidin-4-yloxyquinazoline
A mixture of 7-benzyloxy-5-[N-(tert-butoxycarbonyl)piperidin-4-yloxy]-4-(6-chloro-2,3-methylenedioxyanilino)quinazoline dihydrochloride (2.3 g) and trifluoroacetic acid 28 ml) was stirred and heated to 80° C. for 6 hours. The mixture was evaporated and the residue was dissolved in water and the solution was basified to pH10 by the addition of 1N aqueous sodium hydroxide solution. The mixture was stirred at ambient temperature for 1 hour. The solid was isolated, washed with water and dried under vacuum. There was thus obtained the title compound (1.1 g); NMR Spectrum: (DMSOd6) 1.6–1.8 (m, 2H), 2.0–2.15 (m, 2H), 2.65–2.75 (m, 2H), 2.9–3.05 (m, 2H), 4.8 (m, 1H), 6.1 (s, 2H), 6.62 (s, 1H), 6.7 (s, 1H), 6.92 (d, 1H), 7.05 (d, 1H), 8.25 (s, 1H), 9.2 (s, 1H); Mass Spectrum: M+H+ 415 and 417.

reactant | 7-benzyloxy-5-[N-(tert-butoxycarbonyl)piperidin-4-yloxy]-4-(6-chloro-2,3-methylenedioxyanilino)quinazoline dihydrochloride | 2.3 g | Cl.Cl.C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1Cl)OCO2)OC2CCN(CC2)C(=O)OC(C)(C)C
reactant | trifluoroacetic acid | 28 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-piperidin-4-yloxyquinazoline | 1.1 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCNCC1)O)OCO2 | C20H19ClN4O4
